US04512999
A solution of 6.6 g of methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate in 150 ml of benzene is treated at room temperature with 9 g of triphenylchloroacetonylphosphorane. After 10 minutes, the reaction mixture is evaporated. The residue is chromatographed on silica gel while eluting with cyclohexane/ethyl acetate (7:3). There is obtained methylene-(2S,5R)-6-(3-chloroacetonylidene)-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate as an orange oil [Rf: 0.4; cyclohexane/ethyl acetate (6:4); NMR (CDCl3), δ (ppm); 1.21 (9H); 1.51 (3H); 1.57 (3H); 4.25 (2H); 4.65 (1H); 5.9 (m, 2H); 6.1 (1H); 6.93 (1H)].

reactant | methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | 6.6 g | C(C(C)(C)C)(=O)O.C=S1C(C(N2C(C(C12)=O)=O)C(=O)O)(C)C
reactant | triphenylchloroacetonylphosphorane | 9 g | C1(=CC=CC=C1)P(CC(=O)CCl)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20ClOP
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | methylene-(2S,5R)-6-(3-chloroacetonylidene)-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | C(C(C)(C)C)(=O)O.C=S1C([C@@H](N2C(C([C@@H]12)=CC(=O)CCl)=O)C(=O)O)(C)C | InChI=1S/C12H14ClNO4S.C5H10O2/c1-12(2)8(11(17)18)14-9(16)7(4-6(15)5-13)10(14)19(12)3;1-5(2,3)4(6)7/h4,8,10H,3,5H2,1-2H3,(H,17,18);1-3H3,(H,6,7)/t8-,10+,19?;/m0./s1
